US04487945
2,2,4-Trimethyl-3-cyclohexen-1-one
To a 500 ml 3-neck, round-bottom flask were charged 37.5 g of 88% purity 4-methyl-3-cyclohexen-1-one, 100 ml of ether, 89.5 g of methyl iodide and 0.3 g of "Aliquot 336" (methyltrioctylammonium chloride). This mixture was stirred mechanically at ambient temperature and treated with 30 g of granular sodium hydroxide. After 20 minutes at gentle reflux (no cooling used), heat was applied to maintain the reflux for 2 hours longer. The cooled mixture was diluted with ether and treated with water to dissolve the suspended salts. The ether was separated and the aqueous layer was extracted with ether. The combined ether extracts were washed, dried, concentrated and Claisen-distilled to give 36.5 g of the desired product, b.p. 60° C. (10 mm).

reactant | 4-methyl-3-cyclohexen-1-one | CC1=CCC(CC1)=O | C7H10O
reactant | methyl iodide | 89.5 g | CI | CH3I
reactant | sodium hydroxide | 30 g | [OH-].[Na+]
reactant | water | O | H2O
reactant | ether | CCOCC | C4H10O
reactant | ether | 100 ml | CCOCC | C4H10O
catalyst | methyltrioctylammonium chloride | [Cl-].C[N+](CCCCCCCC)(CCCCCCCC)CCCCCCCC
product | 2,2,4-Trimethyl-3-cyclohexen-1-one | 36.5 g | CC1(C(CCC(=C1)C)=O)C | C9H14O
